nmos n gate, linear, lambda specified
Vgs   1  0  3.236734
M1   2  1  0  4  cmosn  l= 9.u  w= 9.u  nrd= 1.  nrs= 1. 
Vds   3  0  0.01
Rds   2  3  1.
Vbs   4  0 -1.234875
.model cmosn  nmos ( level=1  vto= 0.844345  kp= 41.5964u  gamma= 0.863074 
+ phi= 0.6  rd= 0.  rs= 0.  cbd= 0.  cbs= 0.  is= 0  pb= 0.7 
+ cgso= 218.971p  cgdo= 218.971p  cgbo= 0.  rsh= 0.  cj= 384.4u  mj= 0.4884 
+ cjsw= 527.2p  mjsw= 0.3002  js= 0.  tox= 41.8n  nsub= 15.3142E+15 
+ nss= 1.E+12  tpg=1  xj= 400.n  ld= 265.073n  uo= 503.521 
+ kf= 0.  af= 1.  fc= 0.5  lambda=.01)
*+(* vfb=-0.4241892 )
*    vmax= 55.9035K
.print op v(nodes) iter(0)
.op trace i
.print op cgs(m1) cgd(m1) cgb(m1) vgst(m1) von(m1) iter(0)
.op trace i
.end
